US04673746
To a mixture of 38.5 g of 2'-fluoro-4-methoxy-2,3-dichlorobenzophenone and 34.7 g of aluminum chloride in 250 ml of benzene is refluxed for 5 hours, then poured over a mixture of 100 ml of concentrated hydrochloric acid and 100 ml of ice. The two-phase mixture is extracted with ethyl acetate and the combined extracts are dried and concentrated to dryness leaving a solid residue. The residue is triturated with hexane and the resulting solid is recrystallized from an ether-hexane mixture to yield the product 2,3-dichloro-4-hydroxy-2'-fluoro-benzophenone having a melting point of 128° to 131° C.

reactant | 2'-fluoro-4-methoxy-2,3-dichlorobenzophenone | 38.5 g | FC1=C(C=CC=C1)C(C1=C(C(=C(C=C1)OC)Cl)Cl)=O | C14H9Cl2FO2
reactant | aluminum chloride | 34.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2,3-dichloro-4-hydroxy-2'-fluoro-benzophenone | ClC1=C(C(=O)C2=C(C=CC=C2)F)C=CC(=C1Cl)O | C13H7Cl2FO2
